Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7](=[O:8])[H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9],-1.22190110622
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1],5.7464076623
[H:1][O:2]/[C:3]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[H:7]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.4331812144299998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],4.3585916328600005
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])=[C:8]([H:9])[H:10],4.83655479316
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],4.86568175145
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-7.40976379
[C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.15415115503
[H:1][C:2]=[C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],1.58565254442
[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.0227907619101
[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.13305126248
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([C:3][O:4][H:5])[C:6][C:8]([H:9])([H:10])[H:11],4.69387788458
[C:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[O:2].[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[H:11],-1.1243559472799998
[C:3](#[C:4][H:5])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:6]([H:7])[H:8]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.91177903154
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5],-1.04676499041
[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2]1[O:3][C:4]1=[C:5]([H:6])[H:7],-2.52813044101
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.97110395902
[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.87981784058
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.02136990807
[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])[H:10].[H:6]>>[C:1]#[C:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-2.40082249938
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[O:12][H:13].[H:1][O:2][C:9]([H:10])[H:11],1.60250916523
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:9][O:10][H:11].[H:8],2.15658042661
[H:1][O:2][C:3][C@@:8]([C:6](=[C:4][H:5])[H:7])([H:9])[O:10][H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C@@:8]1([H:9])[O:10][H:11],-2.89888832918
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.91390273086
[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.358330434086
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.1476335036
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.96593872404
[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],6.03786004025
[C:4]#[C:5][C:6](=[O:7])[H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6](=[O:7])[H:8],-5.1074946795
